US04960771
6.17 g of 3-(2-chloroethyl)oxazolidin-2-one and 6.45 g of 1-aminobutane were stirred together for 30 hours at room temperature and then at reflux for 6 hours. The cooled reaction mixture was diluted with water and extracted with ether. The organic extracts were dried and concentrated to give 5.53 g (70%) of crude 1-butyl-3-(2-hydroxyethyl)imidazolidin-2-one. A dry 250 ml flask equipped with nitrogen inlet, refluxcondenser and stirring bar was charged with 1.34 g of hexane washed 60% NaH/oil and 40 ml of dry DMF. To this was slowly added 5.23 g of 1-butyl-3-(2-hydroxyethyl)imidazolidin-2-one in 10 ml of THF. After the initial reaction had subsided the reaction mixture was heated at 60° C. for 2 hours. 3.1 ml ofiodoethane was injected dropwise into the reaction mixture and it was refluxed for 16 hours. The reaction mixture was cooled and quenched with dilute HCl and ether. The ether layer was washed with brine, dried and concentrated to give 5.15 g (85.5%) of crude product. Kugelrohr distillation at 120°-125° C./0.2 mm gave colorless oil.

reactant | 3-(2-chloroethyl)oxazolidin-2-one | 6.17 g | ClCCN1C(OCC1)=O | C5H8ClNO2
reactant | 1-aminobutane | 6.45 g | NCCCC | C4H11N
solvent | water | O | H2O
product | 1-butyl-3-(2-hydroxyethyl)imidazolidin-2-one | 5.53 g, 70% | C(CCC)N1C(N(CC1)CCO)=O | C9H18N2O2
